US04606865
A mixture of lithium bromide (43 g, 0.5 m), ethyl alphachloroethyl carbonate (15.3 g, 0.1 m); water (100 ml), dichloromethane (100 ml) and cetyl trimethyl ammonium bromide (1.5 g) was stirred at ambient temperature for 24 hours. The aqueous layer was removed and replaced by a fresh solution of lithium bromide (26 g, 0.3 m) in water (40 ml) containing cetyl trimethyl ammonium bromide (1 g). After stirring for a further 24 hours during which time the temperature was raised to 35° C., the organic layer was separated, dried and vacuum distilled to afford after repeated fractionation the new compound, ethyl alpha-bromoethyl carbonate (15.0 g, 76% yield) having a boiling point of 90°-92° C. at 35 mms of mercury pressure.

reactant | lithium bromide | 43 g | [Br-].[Li+]
reactant | ethyl alphachloroethyl carbonate | 15.3 g | C(OCC)(OC(C)Cl)=O | C5H9ClO3
reactant | water | 100 ml | O | H2O
catalyst | cetyl trimethyl ammonium bromide | 1.5 g | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl alpha-bromoethyl carbonate | 15.0 g, 76% yield | C(OCC)(OC(C)Br)=O | C5H9BrO3
